US04185992
Potassium t-butoxide (10.9 g) was added with stirring to a solution of diethyl imidazole-4,5-dicarboxylate (20 g, described by Jones, J.A.C.S. 74, 1085 (1952)) in dry dimethylformamide (300 ml) at room temperature and the mixture was stirred for 40 minutes. 3,4-Dichlorobenzyl chloride (20.4 g) was added and the mixture was heated at reflux for 11 hours. The cooled reaction mixture was poured into ice-water (500 ml) and extracted with chloroform (2×200 ml). The combined extracts were washed with water (3×300 ml), dried over magnesium sulphate, filtered and evaporated to dryness. The solid residue was crystallised from methanol (100 ml) to give diethyl 1-(3,4-dichlorobenzyl)imidazole-4,5-dicarboxylate, m.p. 105°-107° C., (13 g) as a colourless solid.

reactant | Potassium t-butoxide | 10.9 g | CC(C)([O-])C.[K+]
reactant | diethyl imidazole-4,5-dicarboxylate | 20 g | N1C=NC(=C1C(=O)OCC)C(=O)OCC | C9H12N2O4
reactant | 3,4-Dichlorobenzyl chloride | 20.4 g | ClC=1C=C(CCl)C=CC1Cl | C7H5Cl3
solvent | dimethylformamide | 300 ml | CN(C=O)C | C3H7NO
product | diethyl 1-(3,4-dichlorobenzyl)imidazole-4,5-dicarboxylate | ClC=1C=C(CN2C=NC(=C2C(=O)OCC)C(=O)OCC)C=CC1Cl | C16H16Cl2N2O4
